US07820700B2
Using methyl 2-(3-cyano-4-hydroxyphenyl)isonicotinate and cyclobutylmethyl bromide, 2-[3-cyano-4-(cyclobutylmethoxy)phenyl]isonicotinic acid was obtained according to the method of Example 2. Then, 150 mg of the compound was suspended in 5 ml of methanol, and 32 mg of sodium methoxide was added to the suspension at 0° C., followed by stirring for 3 hours with gradual elevation of the temperature to room temperature. The reaction solution was concentrated under reduced pressure to obtain 115 mg of sodium 2-[3-cyano-4-(cyclobutylmethoxy)phenyl]isonicotinate.

reactant | methyl 2-(3-cyano-4-hydroxyphenyl)isonicotinate | C(#N)C=1C=C(C=CC1O)C=1C=C(C(=O)OC)C=CN1 | C14H10N2O3
reactant | cyclobutylmethyl bromide | C1(CCC1)CBr | C5H9Br
product | 2-[3-cyano-4-(cyclobutylmethoxy)phenyl]isonicotinic acid | C(#N)C=1C=C(C=CC1OCC1CCC1)C=1C=C(C(=O)O)C=CN1 | C18H16N2O3
